US05998436
Synthesis of 7-(3-aminoazetidin-1-yl)-1-(6-amino-5-fluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 270 mg of N,N-dimethylformamide were added 55 mg of 1-(6-amino-5-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 70 mg of 3-aminoazetidine dihydrochloride, and 80 mg of N-methylpyrrolidine, and the mixture was stirred at 90° C. for 15 minutes. After adding 0.3 ml of ethanol, the mixture was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 62 mg of the title compound as a colorless powder.

reactant | N,N-dimethylformamide | 270 mg | CN(C=O)C | C3H7NO
reactant | 1-(6-amino-5-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 55 mg | NC1=C(C=CC(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F | C15H7ClF3N3O3
reactant | 3-aminoazetidine dihydrochloride | 70 mg | Cl.Cl.NC1CNC1
reactant | N-methylpyrrolidine | 80 mg | CN1CCCC1 | C5H11N
solvent | ethanol | 0.3 ml | C(C)O | C2H6O
product | 7-(3-aminoazetidin-1-yl)-1-(6-amino-5-fluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 62 mg | NC1CN(C1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1=NC(=C(C=C1)F)N)C(=O)O)=O)F | C18H14ClF2N5O3
